US09376443B2
6-(4-Hydroxytetrahydropyran-4-yl)pyridine-2-carbonitrile
To a stirred solution of 2-(4-hydroxytetrahydropyran-4-yl)pyridine-N-oxide (3.69 g, 18.91 mmol) in anhydrous dichloromethane was added dimethylcarbamoyl chloride (3.05 g, 28.4 mmol) and trimethylsilylcyanide (2.82 g, 28.4 mmol). The mixture was stirred for sixty hours at 40° C., after which time further aliquots of dimethyl carbamoyl chloride (3.05 g, 28.4 mmol) and trimethylsilylcyanide (2.82 g, 28.4 mmol) were added. After stirring at 40° C. for a further 24 hours, sodium carbonate solution (50 mL, 2 M aqueous solution) was added and the mixture stirred overnight. The resultant mixture was filtered and the layers partitioned. Sodium carbonate solution (50 mL, 2 M aqueous solution) was again added to the organic phase and stirred overnight. After separation of the phases, the organic layer was blown down at ambient temperature to give the title compound as a brown oil which was used in the next step without further purification; LC-MS Retention time 1.62 min, (M+H)+ 205.

reactant | 2-(4-hydroxytetrahydropyran-4-yl)pyridine-N-oxide | 18.91 mmol, 3.69 g | OC1(CCOCC1)C1=[N+](C=CC=C1)[O-] | C10H13NO3
reactant | dimethylcarbamoyl chloride | 28.4 mmol, 3.05 g | CN(C(=O)Cl)C | C3H6ClNO
reactant | trimethylsilylcyanide | 28.4 mmol, 2.82 g | C[Si](C)(C)C#N | C4H9NSi
reactant | dimethyl carbamoyl chloride | 28.4 mmol, 3.05 g | CN(C(=O)Cl)C | C3H6ClNO
reactant | trimethylsilylcyanide | 28.4 mmol, 2.82 g | C[Si](C)(C)C#N | C4H9NSi
reactant | sodium carbonate | 2 M, 50 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
product | 6-(4-Hydroxytetrahydropyran-4-yl)pyridine-2-carbonitrile | OC1(CCOCC1)C1=CC=CC(=N1)C#N | C11H12N2O2
